US06713499B2
To a stirred solution of 1.70 g (6.8 mmol) 4-methoxy-N1-methyl-N1-(tetrahydro-pyran-4-ylmethyl)-benzene-1,3-diamine in 30 ml acetone was added dropwise 1.0 ml (7.50 mmol) benzoyl isothiocyanate and stirring continued for 1 h at room temperature. The mixture was then concentrated in vacuo and the residue subjected to column chromatography (1/1 hexane/ethyl acetate) to afford 2.0 g (71%) 1-benzoyl-3-{2-methoxy-5-[methyl-(tetrahydro-pyran-4-ylmethyl)-amino]-phenyl}-thiourea as a yellow oil. ES-MS m/e (%): 436 (M+Na+, 13), 414 (M+H+, 100).

reactant | 4-methoxy-N1-methyl-N1-(tetrahydro-pyran-4-ylmethyl)-benzene-1,3-diamine | 6.8 mmol, 1.70 g | COC1=C(C=C(C=C1)N(CC1CCOCC1)C)N | C14H22N2O2
reactant | benzoyl isothiocyanate | 7.50 mmol, 1.0 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 1-benzoyl-3-{2-methoxy-5-[methyl-(tetrahydro-pyran-4-ylmethyl)-amino]-phenyl}-thiourea | 2.0 g, 71% | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C=CC(=C1)N(CC1CCOCC1)C)OC | C22H27N3O3S
